Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
Slurred speech and left upper extremity weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a pleasant ___ yo man with medical history of HTN, PFO
with question of electromechanical dissociation of the LT atrial
appendage with LT atrial appendage fibrillation, and TIAs x3, 
who
presents for evaluation of fluctuating LT upper extremity
numbness and weakness with associated slurred speech lasting 
from
6am to 5pm concerning for TIA vs stroke.

He reports woke up this morning at 6am and felt that his LT arm
was numb, which he described as pins and needles. He also notes
felt weak but denies dropping things, he said was "just not
feeling right". He is self employed so went to work at the
office, where he was not interacting with anyone. He did notice
his handwriting was worse than usual and typing on the computer
was a struggle. He thought had pinched a nerve. Went to see his
cardiologist for a regular appointment at 11:30am but did not
comment on his symptoms as his BP was 130-140/80. Afterwards he
went back to office to finish working with his son. While 
working
his son noted that he had slurred speech  which was 
intermittent.
At 5pm was on the computer and his son asked why his speech was
so slurred, so he became concerned and went to  ___ 
___.
There, he had a NCHCT which was reportedly normal. He estimates
the entire episode lasted from 6am to 5pm. He denies associated
visual changes, facial droop/numbness, dysphagia, confusion, or
nonsense speech. 

Of note he's had three TIAs in ___, and ___. All of them
presenting with inability to speak and one episode with RT sided
facial droop. He was found to have a PFO which cardiology had
attempted to correct unsuccessfully in ___. During the
procedure he was found to have LT atrial appendage
electromechanical dissociation suggestive of LT atrial appendage
fibrillation. At the time he was started on apixaban 5mg PO bid.
The patient reports started taking eliquis in ___ but
taking once a day as he thought this was the correct dose.

On neurologic review of systems, the patient reports mild
generalized headache. Otherwise denies lightheadedness, or
confusion. Denies difficulty with comprehending speech. Denies
loss of vision, blurred vision, diplopia, vertigo, tinnitus,
hearing difficulty, dysarthria, or dysphagia. Denies bowel or
bladder incontinence or retention. Denies difficulty with gait.

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Denies chest pain,
palpitations, dyspnea, or cough. Denies nausea, vomiting,
diarrhea, constipation, or abdominal pain.  No recent change in
bowel or bladder habits.  Denies dysuria or hematuria. Denies
myalgias, arthralgias, or rash.

 
Past Medical History:
HTN 
PFO
TIAs (___) 
BPH
Bilateral rotator cuff repairs

 
Social History:
___
Family History:
Father: HTN (deceased)
GF: Stroke (deceased)
Mother: Cancer (deceased)
Sister: Cancer (deceased)
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
Vitals:  
73 
142/81 
19 
97% RA 
 
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, warm well perfused
Pulmonary: unlabored breathing on RA
Abdomen: Soft
Extremities: Warm, no edema

Neurologic Examination:
MS: Awake, alert, oriented x 3. Able to relate history without
difficulty. Attentive, able to name ___ backward without
difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. Able to register 3
objects and recall ___ at 5 minutes. No apraxia. No evidence of
hemineglect. No left-right confusion.  Able to follow both
midline and appendicular commands.

Cranial Nerves: PERRL 2.5->2mm brisk. VF full. EOMI, fatigable
end gaze nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

Motor: Normal bulk and tone. No drift. No tremor or asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

Sensory: No deficits to light touch. No exinction to DSS.

DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response flexor bilaterally.

Coordination: No dysmetria with finger to nose testing
bilaterally. 
=============================================
DISCHARGE PHYSICAL EXAM
Vitals: 98.1, 114-158/66-84, HR 61-62, SpO2 94%RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, warm well perfused
Pulmonary: unlabored breathing on RA
Abdomen: Soft
Extremities: Warm, no edema

Neurologic Examination:
MS: Awake, alert, oriented x 3. Able to relate history without
difficulty. Attentive, able to name ___ backward without
difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. Able to register 3
objects and recall ___ at 5 minutes. No apraxia. No evidence of
hemineglect. No left-right confusion.  Able to follow both
midline and appendicular commands.

Cranial Nerves: PERRL 2.5->2mm brisk. VF full. EOMI, fatigable
end gaze nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

Motor: Normal bulk and tone. No drift. No tremor or asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

Sensory: No deficits to light touch. No exinction to DSS.

DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response flexor bilaterally.

Coordination: No dysmetria with finger to nose testing
bilaterally. 
 
Pertinent Results:
___ 08:49PM   PLT COUNT-308
___ 08:49PM   NEUTS-54.9 ___ MONOS-9.5 EOS-4.5 
BASOS-0.5 IM ___ AbsNeut-4.74 AbsLymp-2.63 AbsMono-0.82* 
AbsEos-0.39 AbsBaso-0.04
___ 08:49PM   WBC-8.6 RBC-5.64 HGB-12.9* HCT-41.9 MCV-74* 
MCH-22.9* MCHC-30.8* RDW-14.8 RDWSD-38.8
___ 08:49PM   ALBUMIN-4.4
___ 08:49PM   ALT(SGPT)-17 AST(SGOT)-18 ALK PHOS-101 TOT 
BILI-0.6
___ 08:49PM   GLUCOSE-93 UREA N-12 CREAT-0.7 SODIUM-136 
POTASSIUM-4.0 CHLORIDE-100 TOTAL CO2-22 ANION GAP-18
___ 09:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 09:30PM URINE  COLOR-Straw APPEAR-Clear SP ___

IMAGING:
Radiology Report MR HEAD W & W/O CONTRAST Study Date of 
___ 12:53 AM 
FINDINGS:  
  
MR BRAIN: 
There is no evidence acute infarction, edema, mass effect, or 
blood products.  
There is no evidence of a large chronic infarction.  Minimal 
periventricular 
high T2 signal is nonspecific but likely secondary to mild 
chronic small 
vessel ischemic disease in this age group.  The ventricles and 
sulci are 
normal in size for age.   The principal intracranial vascular 
flow voids are preserved. 
  
There is mild mucosal thickening in the bilateral ethmoid air 
cells and right frontal sinus as well as along the floor of the 
right maxillary sinus. 
  
MRA BRAIN: 
Images are mildly limited by motion.  There is no evidence for 
flow-limiting stenosis.  There is variant fetal type origin of 
the left posterior cerebral artery and partial fetal type origin 
of the right posterior cerebral artery.  A1 segment of the right 
anterior cerebral artery is hypoplastic, a normal variant.  A 
tight vessel loop is noted adjacent to the M1/M2 junction of the 
right MCA, better seen on the prior CTA examination, without 
discrete aneurysm.  No aneurysm is seen elsewhere. 
  
IMPRESSION: 
  
  
1. No acute infarction.  No large chronic infarction. 
2. Minimal periventricular high T2 signal is nonspecific but 
likely related to minimal chronic small vessel ischemic disease 
this age group. 
3. Mildly motion limited brain MRA demonstrates no evidence for 
flow-limiting stenosis or aneurysm. 
CHEST (PORTABLE AP) Study Date of ___ 2:34 AM 

FINDINGS:  
  
Lungs are hypoinflated with bibasilar atelectasis.  No focal 
consolidation is identified.  There is no evidence of pulmonary 
edema, pneumothorax, or pleural effusion.  The cardiomediastinal 
silhouette appears borderline. 
  
IMPRESSION:  
  
Hypoinflated lungs without evidence of focal consolidation. 

 
Brief Hospital Course:
Mr. ___ presented to the ___ ED on ___ for evaluation 
of LT upper extremity numbness and weakness with associated 
slurred speech lasting from 6am to 5pm concerning for TIA vs 
stroke in the setting of multiple prior similar events. He was 
admitted to the neurology stroke service under attending Dr. 
___ further work up. Neurologic exam was intact. NCHCT 
from OSH unremarkable. MRI & MRA were without evidence of acute 
infarct. 
Regarding etiology of these events, it was felt that this may 
represent a migraine variant given that all episodes were 
followed by headache. Although TIA can't completely be ruled 
out, it is unlikely to have identical symptoms each time as 
embolic phenomena would probably not always go to he exact same 
territory. In addition, his most recent episode lasted 11 hours. 
One would expect some changes on imaging for such a prolonged 
episode. Nevertheless, since we can not completely rule out TIA 
we recommend to continue apixiban. 

Of note, since his attempted PFO closure he has been taking 
apixaban once per day rather than BID as prescribed. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO (prescribed bid, taking daily)
2. Enablex (darifenacin) 7.5 mg oral DAILY 
3. Viagra (sildenafil) 100 mg oral DAILY if needed 
4. Losartan Potassium 50 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Enablex (darifenacin) 7.5 mg oral DAILY  
3.  Losartan Potassium 50 mg PO DAILY  
4.  Viagra (sildenafil) 100 mg oral DAILY if needed  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient ischemic attack

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of fluctuating left upper 
extremity numbness and weakness with associated slurred speech  
resulting from an transient ischemic attack versus a complex 
migraine.
Even though we are not ___ sure if this is a migraine vs TIA we 
would 
Please take your eliquis 5 mg twice daily
Please take your other medications as prescribed.
Please followup with Neurology and your primary care physician 
as listed below.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body
Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___